US06391991B1
A solution of 2-t-butyl-1-indanol (8.19 g, 43.1 mmol) and p-toluenesulfonic acid (0.200 g, 1.05 mmol) in benzene was heated under reflux for 0.5 h. Water (20 mL) was added. Aqueous layer was extracted with ether (4*50 mL). All organic layers were combined, washed with water (20 mL), brine (10 mL) and concentrated to produce 7.41 g (100 g) of 2-t-butyl-indene. 1H-NMR (CDCl3) δ 1.18 (s, 9 H), 3.30 (s, 2H), 6.45 (s, 1H), 7.02 (tdd, J=7.3, 1.4, 0.3 Hz, 1H), 7.14 (br t, J=7.5 Hz, 1H), 7.19 (br d, J=7.3 Hz, 1H), 7.31 (br d, J=7.3 Hz, 1 H). 13C-NMR (CDCl3) δ 30.44, 33.45, 37.84, 120.09, 123.42, 123.50, 123.63, 126.25, 143.11, 145.49, 150.16.

reactant | 2-t-butyl-1-indanol | 43.1 mmol, 8.19 g | C(C)(C)(C)C1C(C2=CC=CC=C2C1)O | C13H18O
reactant | p-toluenesulfonic acid | 1.05 mmol, 0.200 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water | 20 mL | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-t-butyl-indene | 7.41 g | C(C)(C)(C)C=1CC2=CC=CC=C2C1 | C13H16
